US06521643B1
To a solution of cyanamide (101 mg) in N,N-dimethylformamide (15 ml) was added sodium hydride (60% dispersion in mineral oil, 90 mg), and the resultant suspension was stirred at ambient temperature for 30 minutes. To the suspension was added 1-chloro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene (264 mg), and the mixture was stirred at 80° C. for 4 hours. The mixture was poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate three times. The combined organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether, filtered and dried under reduced pressure to give N-cyano-4-(4-methoxypyridin-2-yl)-2-nitroaniline (241 mg).

reactant | cyanamide | 101 mg | N#CN | CH2N2
reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | 1-chloro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene | 264 mg | ClC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C12H9ClN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-cyano-4-(4-methoxypyridin-2-yl)-2-nitroaniline | 241 mg | C(#N)NC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C13H10N4O3
